US05965730
To acetic anhydride (193 ml) are added 3,4-diethoxybenzaldehyde (234.4 g), N-acetylglycine (95.4 g) and sodium acetate (49.5 g), and the mixture is heated under reflux for one hour, and the reaction mixture is allowed to stand for cooling. The reaction mixture is further allowed to stand in a refrigerator overnight, and then thereto is added water. The mixture is extracted with chloroform, and the extract is washed, dried and concentrated. The residue is crystallized from ethanol to give 4-(3,4-diethoxybenzylidene)-2-methyloxazol-5(4H)-one (100.9 g).

reactant | acetic anhydride | 193 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3,4-diethoxybenzaldehyde | 234.4 g | C(C)OC=1C=C(C=O)C=CC1OCC | C11H14O3
reactant | N-acetylglycine | 95.4 g | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | sodium acetate | 49.5 g | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 4-(3,4-diethoxybenzylidene)-2-methyloxazol-5(4H)-one | 100.9 g | C(C)OC=1C=C(C=C2N=C(OC2=O)C)C=CC1OCC | C15H17NO4
